US05055572
0.230 g (0.4 mmol) of (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido) -3-[[(2-carbamoyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0] oct-2-ene-2-carboxylic acid was dissolved in 3.5 ml of dimethylacetamide. Within 6 hours 0.11 g (0.7 mmol) of 2-(aminooxy)methyl-5-hydroxy-4(1H)-pyrimidinone and 0.133 g (0.7 mmol) of p-toluenesulfonic acid hydrate were added. After further stirring for 18 hours the dimethylacetamide was evaporated off at strongly reduced pressure, and the residue was taken up in water and stirred for 20 minutes in order to completely precipitate the product. The product was filtered off, washed well with water and dried under strongly reduced pressure at room temperature. (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[(1,4-dihydro -5-hydroxy-4-oxo-2-pyrimidinyl) methoxy]imino]-acetamido]-3-[[(2-carbamoyl -5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid was obtained as a beige powder.

reactant | (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido) -3-[[(2-carbamoyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0] oct-2-ene-2-carboxylic acid | 0.4 mmol, 0.230 g | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(N)=O)C)=O | C20H17N9O6S3
reactant | 2-(aminooxy)methyl-5-hydroxy-4(1H)-pyrimidinone | 0.7 mmol, 0.11 g | NOCC=1NC=C(C(N1)=O)O | C5H7N3O3
reactant | p-toluenesulfonic acid hydrate | 0.7 mmol, 0.133 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | dimethylacetamide | 3.5 ml | CC(=O)N(C)C | C4H9NO
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[(1,4-dihydro -5-hydroxy-4-oxo-2-pyrimidinyl) methoxy]imino]-acetamido]-3-[[(2-carbamoyl -5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C(N)=O)C)=N/OCC=2NC=C(C(N2)=O)O | C25H22N12O8S3
